US05523455
B) 4-Hydrazino-1-naphthalenecarboxylic Acid Hydrochloride
2.4 g of 4-amino-1-naphthalenecarboxylic acid hydrochloride are mixed at 0° C. with 80 ml of concentrated HCl. A solution of 0.89 g of sodium nitrite in 19 ml of water is added and the mixture is left stirring for 2 hours at 2-3° C. It is cooled to -10° C., and a solution of 9.7 g of stannous chloride dihydrate in 90 ml of concentrated HCl is added slowly. The temperature is allowed to rise to RT and the mixture is kept stirring for 30 minutes. 200 ml of water are added, the mixture is left stirring for 30 minutes and the solid formed is drained. The solid is taken up in MeCN, drained, washed with ether and dried. 2.2 g of the expected product are obtained, m.p.=190° C.

reactant | 4-amino-1-naphthalenecarboxylic acid hydrochloride | 2.4 g | Cl.NC1=CC=C(C2=CC=CC=C12)C(=O)O
reactant | sodium nitrite | 0.89 g | N(=O)[O-].[Na+]
solvent | water | 19 ml | O | H2O
solvent | HCl | 90 ml | Cl | ClH
solvent | MeCN | CC#N | C2H3N
solvent | water | 200 ml | O | H2O
solvent | HCl | 80 ml | Cl | ClH
product | 4-Hydrazino-1-naphthalenecarboxylic Acid Hydrochloride | 2.2 g | Cl.N(N)C1=CC=C(C2=CC=CC=C12)C(=O)O | InChI=1S/C11H10N2O2.ClH/c12-13-10-6-5-9(11(14)15)7-3-1-2-4-8(7)10;/h1-6,13H,12H2,(H,14,15);1H
